US07279469B2
A solution of 4-nitrobenzene-1,2-diol (4.18 g, 27.1 mmol), methyl chlorodifluoroacetate (3.0 mL, 28.5 mmol) and cesium carbonate (11.05 g, 33.9 mmol) in DMF (75 mL) was heated at 90° C. for 24 h. The reaction was cooled, evaporated and diluted with ethyl acetate. Product was extracted twice into 1N NaOH, the combined aqueous phase was acidified, extracted with ethyl acetate (twice) and the organic layers were washed with water (twice) and brine, dried (sodium sulfate) and evaporated. Purification by flash chromatography (SiO2) eluted with 2:8 ethyl acetate:hexanes provided 2-difluoromethoxy-5-nitro-phenol (1.50 g, 27% yield) as a bright yellow solid. 1H-NMR (DMSO-d6, 500 MHz) 10.9 (s, 1H), 7.76 (d, 1H), 7.73 (dd, 1H), 7.36 (d, 1H), 7.28 (t, 1H) ppm; MS (FIA) 204.1 (M−H); HPLC (Method A) 3.307 min.

reactant | 4-nitrobenzene-1,2-diol | 27.1 mmol, 4.18 g | [N+](=O)([O-])C=1C=C(C(=CC1)O)O | C6H5NO4
reactant | methyl chlorodifluoroacetate | 28.5 mmol, 3.0 mL | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | cesium carbonate | 33.9 mmol, 11.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2-difluoromethoxy-5-nitro-phenol | 1.50 g, 27% yield | FC(OC1=C(C=C(C=C1)[N+](=O)[O-])O)F | C7H5F2NO4
